US08426449B2
Step 1: {3-[2-[(Acetyl-ethyl-amino)-methyl]-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 5, using the following starting materials: (3-{2-[(acetyl-ethyl-amino)-methyl]-4-amino-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester and 4-chlorobenzoyl chloride.

reactant | (3-{2-[(acetyl-ethyl-amino)-methyl]-4-amino-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN(CC)C(C)=O)=O | C22H28N2O5
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | {3-[2-[(Acetyl-ethyl-amino)-methyl]-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CN(CC)C(C)=O)=O | C29H31ClN2O6
